US04242507
Into benzene (14 ml) is suspended 1-hydroxy-6-chloro-1,2,3-benzotriazole (3.4 g) and thereto is added triethylamine (2.8 ml). To the solution is added methanesulfonyl chloride (2.3 g) with stirring under ice-cooling and the mixture is stirred at the same temperature for 20 minutes and further at room temperature for 5 hours. To the reaction mixture are added water (20 ml) and ethyl acetate (30 ml) and the ethyl acetate layer is separated. the water layer is again extracted with ethyl acetate (20 ml). The ethyl acetate extracts are combined, washed with a small amount of a saturated aqueous sodium hydrogen carbonate and water in order and dried over anhydrous sodium sulfate. After drying, the solvent is distilled off under a reduced pressure, and the residue is washed with petroleum ether (10 ml) to give colorless crystals of 1-methanesulfonyloxy-6-chloro-1,2,3-benzotriazole (1.55 g), melting point: 174°-175° C. (decomp). The remaining water layer after extracted with ethyl acetate, wherein precipitates are observed, is regulated at pH 1 with concentrated hydrochloric acid. The precipitates are separated by filtration and washed with water to give the desired product (2.4 g) as colorless crystals, melting point: 157°-158° C. (decomp).

reactant | benzene | 14 ml | C1=CC=CC=C1 | C6H6
reactant | 1-hydroxy-6-chloro-1,2,3-benzotriazole | 3.4 g | ON1N=NC2=C1C=C(C=C2)Cl | C6H4ClN3O
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.3 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | 1-methanesulfonyloxy-6-chloro-1,2,3-benzotriazole | 1.55 g | CS(=O)(=O)ON1N=NC2=C1C=C(C=C2)Cl | C7H6ClN3O3S
